US06436929B1
6-(3-Bromo-5-fluorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2one was prepared, from (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 1,3-dibromo-5-fluorobenzene following the procedure of Example 5, as a white solid; mp 182-183° C.; 1H-NMR (DMSO-d6) δ10.36 (s, 1H, D2O exchangeable), 7.78 (s, 1H), 7.58-7.65 (m, 3H), 7.49 (dd, 1H, J=8.3, 1.8 Hz), 6.96 (d, 1H, J=8.5 Hz), 1.69 (s, 6H), 19F-NMR (DMSO-d6) δ−112.46 (m, 1F), MS (CI) m/z 352 ([M+H]+, 78%), 350 ([M+H]+, 75%); Anal. Calc. For C16H13BrFNO2: C, 54.88; H, 3.74; N, 4.00. Found: C, 54.83; H, 3.82; N, 3.95.

reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 1,3-dibromo-5-fluorobenzene | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
product | 6-(3-Bromo-5-fluorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2one | BrC=1C=C(C=C(C1)F)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13BrFNO2
